US07625932B2
Preparation of 3-(4-benzyloxy-phenyl)-4-cyano-1H-pyrrole-2-carboxylic acid ethyl ester
A solution of 3-(4-benzyloxy-phenyl)-2-(toluene-4-sulfonyl)-acrylonitrile (250.43 g, 0.643 mol, prepared directly above) in anhydrous THF (2,500 mL) is treated with DBU (385.00 mL, 2.574 mol), followed by ethyl isocyanoacetate (150.00 g, 1.286 mol). The resulting reaction mixture is allowed to stir at room temperature for 2 hours. The reaction mixture is poured into water (4,000 mL) and the resulting solution is separated into 2 equal parts. Each part is extracted with EtOAc (3×800 mL each), then the combined organics are washed with 1N HCl (1,000 mL), water (1,000 mL), and brine (1,000 mL), dried over anhydrous MgSO4, filtered, then concentrated in vacuo to afford an off-white solid. The solid is slurried in EtOAc (200 mL), then treated with excess hexanes, causing a solid to precipitate. The solid is recovered by vacuum filtration, washing with hexanes, and drying under vacuum filtration to afford the title compound (204.21 g, 91% yield) as an off-white solid: 1H NMR (500 MHz; CDCl3) δ 9.44 (bs, 1H), 7.48-7.45 (m, 4H), 7.42-7.38 (m, 3H), 7.36-7.32 (m, 1H), 7.03 (d, 2H), 5.11 (s, 2H), 4.25 (q, 2H), 1.22 (t, 3H); MS(ES) m/z 347.1 (M++H).

reactant | 3-(4-benzyloxy-phenyl)-2-(toluene-4-sulfonyl)-acrylonitrile | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=C(C#N)S(=O)(=O)C1=CC=C(C=C1)C | C23H19NO3S
reactant | DBU | 2.574 mol, 385.00 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl isocyanoacetate | 1.286 mol, 150.00 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | water | 4,000 mL | O | H2O
solvent | THF | 2,500 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 3-(4-benzyloxy-phenyl)-4-cyano-1H-pyrrole-2-carboxylic acid ethyl ester | 204.21 g, 91% yield | C(C)OC(=O)C=1NC=C(C1C1=CC=C(C=C1)OCC1=CC=CC=C1)C#N | C21H18N2O3
